US09416111B2
A mixture of methyl trans-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethenyl}cyclohexanecarboxylate (5 mg, 10.43 μmol) and palladium on carbon (5 mg, 10 wt %) in THF (10 mL) was stirred at 25° C. under a hydrogen atmosphere (45 psi) for 16 hours. The mixture was then filtered and the filtrate was concentrated under reduced pressure to afford methyl trans-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethyl}cyclohexanecarboxylate. MS ESI calc'd for C26H30F2N5O2 [M+H]+ 482. found 482.

reactant | methyl trans-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethenyl}cyclohexanecarboxylate | 10.43 μmol, 5 mg | FC(C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=NC(=NC1)C(=C)[C@@H]1CC[C@H](CC1)C(=O)OC)F | C26H27F2N5O2
catalyst | palladium on carbon | 5 mg | [Pd] | Pd
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl trans-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethyl}cyclohexanecarboxylate | FC(C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=NC(=NC1)C(C)[C@@H]1CC[C@H](CC1)C(=O)OC)F | C26H29F2N5O2
